US06727264B1
N-(3-{1-[5-(3-FLUOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure K and Scheme B1 using 5-chloro-1-(3-fluorophenyl)-1-pentanone and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 423.2 (M+H)+.

reactant | 5-chloro-1-(3-fluorophenyl)-1-pentanone | ClCCCCC(=O)C1=CC(=CC=C1)F | C11H12ClFO
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
product | N-(3-{1-[5-(3-FLUOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | FC=1C=C(C=CC1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)=O | C26H31FN2O2
